US08222248B2
To a mixture of 2-(2,6-dimethylphenyl)-3H-benzoimidazole-5-carboxylic acid (8.0 g) in SOCl2 (30 mL) was added 5 drops of DMF. After the suspension was stirred for 18 h, toluene (20 mL) was added and mixture was stirred for an additional 1 h. The suspension was filtered, washed with toluene and CH2Cl2. The white solid was dried under reduced pressure give 2-(2,6-dimethyl-phenyl)-3H-benzoimidazole-5-carbonyl chloride HCl salt; MS (ESI)m/z 267 (M+H).

reactant | 2-(2,6-dimethylphenyl)-3H-benzoimidazole-5-carboxylic acid | 8.0 g | CC1=C(C(=CC=C1)C)C=1NC2=C(N1)C=CC(=C2)C(=O)O | C16H14N2O2
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
reactant | SOCl2 | 30 mL | O=S(Cl)Cl | Cl2OS
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
product | 2-(2,6-dimethyl-phenyl)-3H-benzoimidazole-5-carbonyl chloride HCl salt | Cl.CC1=C(C(=CC=C1)C)C=1NC2=C(N1)C=CC(=C2)C(=O)Cl | InChI=1S/C16H13ClN2O.ClH/c1-9-4-3-5-10(2)14(9)16-18-12-7-6-11(15(17)20)8-13(12)19-16;/h3-8H,1-2H3,(H,18,19);1H
